US07576102B2
4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyramide:
4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyric acid methyl ester (200 mg, 0.563 mmol) was taken into 7N Ammonia in methanol solution (5 mL) in a pressure tube. The tube was sealed and heated to 100° C. with stirring and left to react for 48 h. The reaction was concentrated to dryness, and purified by flash silica chromatography (20:1 silica ratio, eluted with a gradient of 10% methanol in dichloromethane to 15% methanol in dichloromethane) to provide the title product (141 mg, 74%); LCMS; m/z 341 (M+1); 1H NMR (400 MHz, DMSO) δ 1.62-1.68 (m, 2H), 1.75-1.78 (m, 1H), 2.06-2.10 (m, 2H), 2.22-2.25 (m, 1H), 2.35-2.43 (m, 3H), 2.59-2.68 (m, 2H), 2.80-2.84 (m, 1H), 4.80-4.83 (m, 1H), 6.69 (s, 1H), 6.89-6.93 (m, 4H), 6.94-6.98 (m, 2H), 7.05-7.09 (m, 1H), 7.24 (s, 1H), 7.32-7.36 (m, 2H).

reactant | 4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyric acid methyl ester | 0.563 mmol, 200 mg | COC(CCCN1C[C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C21H25NO4
reactant | Ammonia | 7N | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | 4-[(R)-3-(4-Phenoxy-phenoxy)-pyrrolidin-1-yl]-butyramide | 141 mg, 74% | O(C1=CC=CC=C1)C1=CC=C(O[C@H]2CN(CC2)CCCC(=O)N)C=C1 | C20H24N2O3
